US04139559
Preparation of 1,5-Di-(3,3-dimethylnorborn-2-yl)-3-pentanol
The ketone, 1,5-di-(3,3-dimethylnorborn-2-yl)-3-pentanone (2 grams) was dissolved in 100 ml. of ethanol and stirred with 2 grams of sodium borohydride overnight. The solvent was removed in vacuo and the residue partitioned between ethyl ether and water. The organic layer was dried over sodium sulfate. After filtration, and removal of solvent a colorless oil was obtained that crystallized on standing, m.p. 55° C.-56° C.

reactant | 1,5-di-(3,3-dimethylnorborn-2-yl)-3-pentanone | 2 grams | CC1(C(C2CCC1C2)CCC(CCC2C1CCC(C2(C)C)C1)=O)C | C23H38O
reactant | sodium borohydride | 2 grams | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,5-Di-(3,3-dimethylnorborn-2-yl)-3-pentanol | CC1(C(C2CCC1C2)CCC(CCC2C1CCC(C2(C)C)C1)O)C | C23H40O
